US06458772B1
b) 3,3-bis-(N-CBz-L-valyloxymethyl)propionic acid iodomethyl ester
3,3-bis(N-CBz-L-valyloxymethyl)-propionic acid chloromethyl ester (900 mg, 1.38 mmole) was dissolved in acetonitrile (5 ml). Sodium iodide (289 mg, 1.93 mmole) was added to the solution. After reaction at 70° C. for 3 hr, the reaction mixture was filtered and the residue was dissolved in methylene chloride (5 ml) and refiltered. The solution was dried and gave the titled product. 800 mg.

reactant | 3,3-bis(N-CBz-L-valyloxymethyl)-propionic acid chloromethyl ester | 1.38 mmole, 900 mg | ClCOC(CC(COC([C@@H](NC(=O)OCC1=CC=CC=C1)C(C)C)=O)COC([C@@H](NC(=O)OCC1=CC=CC=C1)C(C)C)=O)=O | C32H41ClN2O10
reactant | Sodium iodide | 1.93 mmole, 289 mg | [I-].[Na+]
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | 3,3-bis-(N-CBz-L-valyloxymethyl)propionic acid iodomethyl ester | ICOC(CC(COC([C@@H](NC(=O)OCC1=CC=CC=C1)C(C)C)=O)COC([C@@H](NC(=O)OCC1=CC=CC=C1)C(C)C)=O)=O | C32H41IN2O10
